US05521147
A stirred solution of 5.0 grams (0.025 mole) of 8-cyano-2,2-dimethyl-7-fluoro-2H-1-benzopyran and 5.1 grams (0.091 mole) of potassium hydroxide in 60 mL of tert.-butanol was maintained at reflux for one hour and then poured into an aqueous solution saturated with sodium chloride. The mixture was extracted with ethyl acetate, and the extract was washed with an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 2.7 grams of 2,2-dimethyl-7-fluoro-2H-1-benzopyran-8-ylcarboxamide. The NMR spectrum was consistent with the proposed structure.

reactant | 8-cyano-2,2-dimethyl-7-fluoro-2H-1-benzopyran | 0.025 mole, 5.0 grams | C(#N)C1=C(C=CC=2C=CC(OC21)(C)C)F | C12H10FNO
reactant | potassium hydroxide | 0.091 mole, 5.1 grams | [OH-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | tert.-butanol | 60 mL | C(C)(C)(C)O | C4H10O
product | 2,2-dimethyl-7-fluoro-2H-1-benzopyran-8-ylcarboxamide | 2.7 grams | CC1(OC2=C(C=C1)C=CC(=C2C(=O)N)F)C | C12H12FNO2
